US07777047B2
N-methyl-N-{5-[3-(methylsulfonyl)propoxy]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-2-sulfonamide
To a solution of triphenylphosphine oxide (0.70 g) in dichloromethane (3 mL) was slowly added trifluoromethanesulfonic anhydride (0.41 mL) under ice-cooling, and the mixture was stirred for 30 min. A solution of N-[2-(benzylthio)-3-thiomorpholinopropyl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxamide (0.75 g) and thioanisole (0.30 mL) in dichloromethane (10 mL) was added dropwise, and the mixture was stirred for 30 min under ice-cooling. The reaction solution was diluted with ethyl acetate, washed with aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=50:50-90:10) to give the title compound (350 mg, yield: 54%) as a colorless amorphous solid. MS: 625 (MH+).

reactant | triphenylphosphine oxide | 0.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.41 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(benzylthio)-3-thiomorpholinopropyl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxamide | 0.75 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCCS(=O)(=O)C)N(S(=O)(=O)C1=NC=CC=C1)C)CN1CCSCC1 | C33H41N5O6S4
reactant | thioanisole | 0.30 mL | C1(=CC=CC=C1)SC | C7H8S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-{5-[3-(methylsulfonyl)propoxy]-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-2-sulfonamide | 350 mg, yield: 54% | CN(S(=O)(=O)C1=NC=CC=C1)C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCSCC1)OCCCS(=O)(=O)C | C26H33N5O5S4
